US08236826B2
Production of {4-[5-(3,4-dichlorobenzoylamino)pyridin-2-yloxy]phenyl}carbamate phenyl ester
To a suspension of N-[6-(4-aminophenoxy)pyridin-3-yl]-3,4-dichlorobenzamide dihydrochloride (700 mg, 1.57 mmol) in THF (20 mL) was added triethylamine (1.1 mL, 7.89 mmol). To the resulting solution was then added dropwise phenyl chlorocarbonate (0.39 mL, 3.14 mmol) under ice cooling. The resulting reaction solution was stirred for 1 hour at room temperature. Water was added to the residue, and extracted with ethyl acetate. The ethyl acetate layer was washed with a saturated sodium bicarbonate solution and brine. The ethyl acetate layer was dried over anhydrous magnesium sulfate, and evaporated, whereupon the residue solidified into a powder. The powder was filtered, and washed with diethyl ether, to thereby yield 470 mg of the title compound.

reactant | N-[6-(4-aminophenoxy)pyridin-3-yl]-3,4-dichlorobenzamide dihydrochloride | 1.57 mmol, 700 mg | Cl.Cl.NC1=CC=C(OC2=CC=C(C=N2)NC(C2=CC(=C(C=C2)Cl)Cl)=O)C=C1
reactant | triethylamine | 7.89 mmol, 1.1 mL | C(C)N(CC)CC | C6H15N
reactant | phenyl chlorocarbonate | 3.14 mmol, 0.39 mL | C(OC1=CC=CC=C1)(=O)Cl | C7H5ClO2
reactant | Water | O | H2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | {4-[5-(3,4-dichlorobenzoylamino)pyridin-2-yloxy]phenyl}carbamate phenyl ester | C1(=CC=CC=C1)OC(NC1=CC=C(C=C1)OC1=NC=C(C=C1)NC(C1=CC(=C(C=C1)Cl)Cl)=O)=O | C25H17Cl2N3O4
